US06245761B1
Preparation of 2-[4-chlorophenoxymethyl]-3-(2-bromoacetyl)-1H-indole
Under a nitrogen atmosphere bromoacetylbromide (1.31 ml, 0.015 mol) was added to a slurry of 2-[4-chlorophenoxymethyl]-1H-indole (0.81 g, 0.003 mol), and lithium carbonate (2.22 g, 0.03 mol) in diethyl ether (37.5 ml). The resulting mixture was heated to 55° C. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was partitioned between diethyl ether and a sodium bicarbonate solution. The organic fraction was washed with water and then brine, and then dried over sodium sulfate. The solvents were removed in vacuo. Yield: 1.34 g. NMR was consistent with the proposed title structure.

reactant | bromoacetylbromide | 0.015 mol, 1.31 ml | BrCC(=O)Br | C2H2Br2O
reactant | 2-[4-chlorophenoxymethyl]-1H-indole | 0.003 mol, 0.81 g | ClC1=CC=C(OCC=2NC3=CC=CC=C3C2)C=C1 | C15H12ClNO
reactant | lithium carbonate | 0.03 mol, 2.22 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | diethyl ether | 37.5 ml | C(C)OCC | C4H10O
product | 2-[4-chlorophenoxymethyl]-3-(2-bromoacetyl)-1H-indole | ClC1=CC=C(OCC=2NC3=CC=CC=C3C2C(CBr)=O)C=C1 | C17H13BrClNO2
